US06169091A
6-(N,N-Dimethylamino)-4-[4-(1-phenyl-1-cyanomethyl)anilino]pyrido[3,4-d]pyrimidine hydrochloride
Prepared according to Procedure A from 4-chloro-6-(N,N-dimethylamino)pyrido[3,4-d]pyrimidine and (4-aminophenyl)-phenylacetonitrile (commercially available from Salor); tlc (dichloromethane:ethanol:aq.ammonia, 100:8:1) Rf 0.43; m/z (M+1)+381.

reactant | 4-chloro-6-(N,N-dimethylamino)pyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)N(C)C | C9H9ClN4
reactant | (4-aminophenyl)-phenylacetonitrile | NC1=CC=C(C=C1)C(C#N)C1=CC=CC=C1 | C14H12N2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 6-(N,N-Dimethylamino)-4-[4-(1-phenyl-1-cyanomethyl)anilino]pyrido[3,4-d]pyrimidine hydrochloride | Cl.CN(C)C1=CC2=C(N=CN=C2NC2=CC=C(C=C2)C(C#N)C2=CC=CC=C2)C=N1 | InChI=1S/C23H20N6.ClH/c1-29(2)22-12-19-21(14-25-22)26-15-27-23(19)28-18-10-8-17(9-11-18)20(13-24)16-6-4-3-5-7-16;/h3-12,14-15,20H,1-2H3,(H,26,27,28);1H
